US07355052B2
Stage 2: N,N-diisobutyl-1-[3-(neopentylamino)propyl]-2-[(3,4,5-trimethoxyphenyl) amino]-1H-benzimidazole-6-carboxamide dihydrochloride
A solution of 1-(3-aminopropyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxamide (100 mg, 1 eq) and trimethylacetaldehyde (25 mg, 1.5 eq) in dichloromethane (1 ml) is stirred for 4 hours at a temperature of approximately 20° C. The mixture is diluted with methanol (1 ml) then sodium triacetoxyborohydride is added (41 mg, 2 eq). After 1 hour at a temperature of approximately 20° C., dichloromethane (20 ml) and water saturated with sodium hydrogen carbonate (10 ml) are added to the mixture. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound in the form of a base. The corresponding hydrochloride salt is formed by adding a 1N solution of hydrochloric acid in ether. The precipitate obtained is filtered and dried in order to produce the expected dihydrochloride compound (83 mg, 65% yield).

reactant | 1-(3-aminopropyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxamide | 100 mg, 1 eq | NCCCN1C(=NC2=C1C=C(C=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C28H41N5O4
reactant | trimethylacetaldehyde | 25 mg, 1.5 eq | CC(C=O)(C)C | C5H10O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
solvent | water | O | H2O
product | N,N-diisobutyl-1-[3-(neopentylamino)propyl]-2-[(3,4,5-trimethoxyphenyl) amino]-1H-benzimidazole-6-carboxamide dihydrochloride | Cl.Cl.C(C(C)C)N(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC(=C(C(=C2)OC)OC)OC)CCCNCC(C)(C)C)C1)CC(C)C | InChI=1S/C33H51N5O4.2ClH/c1-22(2)19-37(20-23(3)4)31(39)24-12-13-26-27(16-24)38(15-11-14-34-21-33(5,6)7)32(36-26)35-25-17-28(40-8)30(42-10)29(18-25)41-9;;/h12-13,16-18,22-23,34H,11,14-15,19-21H2,1-10H3,(H,35,36);2*1H
